US08080552B2
1.99 ml (1.99 mmol) of 1M t-butyl-dimethylsilyl chloride in dichloromethane were added at 0° C. to a solution of 470 mg (1.81 mmol) 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol and 256 mg (2.53 mmol) triethylamine in 5 ml dichloromethane. The reaction mixture was stirred for 12 h at r.t. and extracted with water. The organic phase was dried (sodium sulphate) and evaporated. The obtained material was purified by chromatography on silica (ethyl acetate/n-heptane 1:1) to give 520 mg (77%) oily [4-(4-Amino-phenoxy)-pyrimidin-2-yl]-(3-trimethylsilanyloxy-propyl)-amine.

reactant | t-butyl-dimethylsilyl chloride | 1.99 mmol, 1M, 1.99 ml | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 1.81 mmol, 470 mg | NC1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H16N4O2
reactant | triethylamine | 2.53 mmol, 256 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | [4-(4-Amino-phenoxy)-pyrimidin-2-yl]-(3-trimethylsilanyloxy-propyl)-amine | 520 mg, 77% | NC1=CC=C(OC2=NC(=NC=C2)NCCCO[Si](C)(C)C)C=C1 | C16H24N4O2Si
